US07332552B2
To a 100 ml round bottom flask was added 5 ml phenyl magnesium bromide (3M solution in ethyl ether) and diluted to 20 ml with anhydrous THF. 1.2 g carbon disulfide was added dropwise to this mixture and stirred for ½ h at room temperature. Then to the dark red solution was added 3 g α-bromobenzeneacetonitrile dropwise and the mixture stirred for another 3 h. Water was added to the mixture and the organic product was extracted with diethyl ether (3×50 ml), dried with magnesium sulfate overnight and filtered. After removal of solvent and column chromatography (3:1 mixture of hexane and ethyl ether), pure α-cyanobenzyl dithiobenzoate was obtained as a red odorless solid (77% yield). Proton and carbon NMR spectra were consistent with the expected structure, CTA-CP-1.

reactant | phenyl magnesium bromide | 3M, 5 ml | C1(=CC=CC=C1)[Mg]Br
reactant | carbon disulfide | 1.2 g | C(=S)=S | CS2
reactant | α-bromobenzeneacetonitrile | 3 g | BrC(C#N)C1=CC=CC=C1 | C8H6BrN
reactant | Water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | α-cyanobenzyl dithiobenzoate | C(C1=CC=CC=C1)(=S)SC(C1=CC=CC=C1)C#N | C15H11NS2
